US04067723
Portions of sodium borohydride (total 15 g.) were added over an hour to a stirred solution of 2-(2-chlorobenzoyl)furan (prepared as hereinbefore described; 100 g.) in methanol (500 ml.) at 10°-25° C. After stirring for 1 hour, the solution was heated briefly to the boiling point and, when effervescence had ceased, sodium hydroxide solution (2N, 100 ml.) was added. The solution was heated at reflux for 30 minutes, diluted with water (1 liter) and extracted with diethyl ether (4 × 150 ml.). The combined extracts were washed with water (2 × 100 ml.), dried over sodium sulphate, filtered and evaporated to a clear oil, which was distilled to give (±) 2-(2-chloro-α-hydroxybenzyl)furan (71 g.), b.p. 136° C./0.1 mm.Hg, as a viscous yellow oil.

reactant | sodium borohydride | 15 g | [BH4-].[Na+]
reactant | 2-(2-chlorobenzoyl)furan | 100 g | ClC1=C(C(=O)C=2OC=CC2)C=CC=C1 | C11H7ClO2
reactant | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
solvent | water | 1 liter | O | H2O
product | (±) 2-(2-chloro-α-hydroxybenzyl)furan | 71 g | ClC1=C(C(O)C=2OC=CC2)C=CC=C1 | C11H9ClO2
